US05527908
7-Chloro-2,3-dihydro-5-oxo-5H-thiazolo[3,2-a]pyrimidine-6-carbaldehyde
In 40 ml of phosphorus oxychloride was dissolved 10.0 g (58.8 mmol) of 2,3-dihydro-7-hydroxy-5-oxo-5H-thiazolo[3,2-a]pyrimidine [J. Am. Chem. Soc., 64, 2709 (1942)], and 6.0 ml of dimethylformamide was added dropwise to the solution with stirring under ice-cooling. Then, the reaction mixture was heated under reflux for 30 minutes. After concentration of the reaction mixture to dryness under reduced pressure, the oily residue was poured by portions into ice water. The precipitated crystals were collected by filtration, and recrystallized from chloroform to give 8.8 g (69%) of the desired compound as pale yellow crystals.

reactant | 2,3-dihydro-7-hydroxy-5-oxo-5H-thiazolo[3,2-a]pyrimidine | 58.8 mmol, 10.0 g | OC=1N=C2N(C(C1)=O)CCS2 | C6H6N2O2S
reactant | dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-2,3-dihydro-5-oxo-5H-thiazolo[3,2-a]pyrimidine-6-carbaldehyde | 8.8 g, 69% | ClC=1N=C2N(C(C1C=O)=O)CCS2 | C7H5ClN2O2S
